US07432291B2
12.7 g (48.3 mmol) 3-(4-Trifluoromethoxy-phenyl)-acrylthioamide, 18.4 g (145 mmol) 1,3-dichloroacetone and 120 ml ethanol were refluxed for 4 h. After evaporation the residue was purified by chromatography on silica gel (ethyl acetate/isohexane 1:10) to yield 2.40 g 4-chloromethyl-2-[2-(4-trifluoromethoxy-phenyl)-vinyl]-thiazole as yellow solid.

reactant | 3-(4-Trifluoromethoxy-phenyl)-acrylthioamide | 48.3 mmol, 12.7 g | FC(OC1=CC=C(C=C1)C=CC(N)=S)(F)F | C10H8F3NOS
reactant | 1,3-dichloroacetone | 145 mmol, 18.4 g | ClCC(=O)CCl | C3H4Cl2O
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 4-chloromethyl-2-[2-(4-trifluoromethoxy-phenyl)-vinyl]-thiazole | 2.40 g | ClCC=1N=C(SC1)C=CC1=CC=C(C=C1)OC(F)(F)F | C13H9ClF3NOS
